US07951828B1
Step 4: Production of 2-acetylamino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-N-(methoxyiminomethyl)benzoic acid amide
A mixture of 0.21 g of 2-acetylamino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid amide and 10 mL of N,N-dimethylformamide dimethylacetal was stirred at room temperature for 1.5 hour. After the completion of the reaction, the solvent was distilled off under reduced pressure, and the residue was dissolved in 3 mL of 1,4-dioxane, a solution of 0.025 g of methoxyamine hydrochloride in 3 mL of water was added dropwise. After the completion of the addition dropwise, it was continued to stir at room temperature further for 30 minutes. After the completion of the reaction, the solvent was distilled off under reduced pressure, 5 mL of water was added in the residue, and extracted with ethyl acetate (10 mL×1). The organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that were eluated with ethyl acetate-hexane (1:2) to obtain 0.07 g of the aimed product as colorless resinous substance.

reactant | 2-acetylamino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid amide | 0.21 g | C(C)(=O)NC1=C(C(=O)N)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H14Cl2F3N3O3
solvent | N,N-dimethylformamide dimethylacetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | 2-acetylamino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-N-(methoxyiminomethyl)benzoic acid amide | 0.07 g | C(C)(=O)NC1=C(C(=O)NC=NOC)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C21H17Cl2F3N4O4
